US05134111
(b) 7-ethyl-hydroxy-3-methoxy-1-naphthalene carbaldehyde
3.3 g of 6-ethyl-2-methoxy-1-naphthol was dissolved in 25 ml of dichloromethane and cooled to 0° C. 3.65 ml of titanium tetrachloride and 2.4 ml of dichloromethyl methyl ether were added successively at that temperature and stirred for 10 min. After the reaction was over, water was added and the solution was extracted with ethyl acetate. After washing the extract with an aqueous saturated solution of sodium chloride, it was dried over anhydrous magnesium sulfate. When the solvent was distilled off and deposited crystals were washed with isopropyl ether, 2.5 g of the above-captioned compound was obtained as brown crystals.

reactant | 6-ethyl-2-methoxy-1-naphthol | 3.3 g | C(C)C=1C=C2C=CC(=C(C2=CC1)O)OC | C13H14O2
reactant | dichloromethyl methyl ether | 2.4 ml | COC(Cl)Cl | C2H4Cl2O
reactant | water | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 3.65 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 7-ethyl-hydroxy-3-methoxy-1-naphthalene carbaldehyde | 2.5 g | C(C)C1=CC=C2C=C(C(=C(C2=C1)C=O)O)OC | C14H14O3
